US07834039B2
Into a round bottom flask containing triphenylphosphine (27.3 g, 104 mmol) and 3-chloro-4-hydroxy-benzonitrile (10 g, 65 mmol) was added anhydrous tetrahydrofuran (600 mL). The mixture was stirred briefly under nitrogen, di-tert-butyl azodicarboxylate (24 g, 104 mmol) was then added. The mixture was stirred for a few minutes, followed by addition of anhydrous isopropanol (6.23 mL, 81.4 mmol). The reaction mixture was stirred at room temperature overnight under nitrogen. The crude product was purified by flash chromatography using 1:4 (v/v) ethyl acetate/heptane as eluent. Fractions were dried to give 3-chloro-4-isopropoxy-benzonitrile (12.2 g, 91%) as a red-orange semi-solid.

reactant | triphenylphosphine | 104 mmol, 27.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-chloro-4-hydroxy-benzonitrile | 65 mmol, 10 g | ClC=1C=C(C#N)C=CC1O | C7H4ClNO
reactant | di-tert-butyl azodicarboxylate | 104 mmol, 24 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | isopropanol | 81.4 mmol, 6.23 mL | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 3-chloro-4-isopropoxy-benzonitrile | 12.2 g, 91% | ClC=1C=C(C#N)C=CC1OC(C)C | C10H10ClNO
